US07851157B1
The above-obtained 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-carbamoyldeoxyguanosine (1.23 g, 2.29 mmol) was azeotroped with anhydrous pyridine three times and then dissolved in anhydrous pyridine (23 mL). To the resulting solution, diisopropylethylamine (797 μL, 4.58 mmol) and then diphenylcarbamoyl chloride (689 mg, 2.98 mmol) were added, and the mixture was stirred at room temperature for 0.5 hours. Then, the reaction was terminated by adding sodium bicarbonate water (5 ml) thereto. The reaction solution was extracted with ethyl acetate (180 mL)/sodium bicarbonate water (150 mL) once and then with ethyl acetate (180 mL)/brine (100 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (C200) with ethyl acetate/50% to 60% hexane to give 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-carbamoyl-6-O-diphenylcarbamoyldeoxyguanosine (1.53 g, 91%).

reactant | 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-carbamoyldeoxyguanosine | 2.29 mmol, 1.23 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(=O)NC(NC(N)=O)=NC12 | C23H42N6O5Si2
reactant | diisopropylethylamine | 4.58 mmol, 797 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylcarbamoyl chloride | 2.98 mmol, 689 mg | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | pyridine | 23 mL | N1=CC=CC=C1 | C5H5N
product | 3′,5′-bis-O-(tert-butyldimethylsilyl)-2-N-carbamoyl-6-O-diphenylcarbamoyldeoxyguanosine | 1.53 g, 91% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C=NC=2C(OC(N(C3=CC=CC=C3)C3=CC=CC=C3)=O)=NC(NC(N)=O)=NC12 | C36H51N7O6Si2
